US07713994B2
To a 0° C. solution of 1-(4-nitrophenyl)piperidine-4-carboxylic acid (1.0 g, 4.0 mmol) in tetrahydrofuran (14 mL) is added borane.tetrahydrofuran complex (1.8 M, 7 mL, 13 mmol). After completion of the dropwise addition, the coolant is removed. The mixture is stirred overnight at room temperature and re-cooled to 0° C. in an ice-water bath. Sodium hydroxide solution (1M, 6 mL) is added dropwise. The basic mixture is neutralized by the addition of saturated aqueous ammonium chloride solution. The mixture is extracted 3× with ethyl acetate, and the combined extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give [1-(4-nitro-phenyl)-piperidin-4-yl]-methanol.

reactant | 1-(4-nitrophenyl)piperidine-4-carboxylic acid | 4.0 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | borane | B | BH3
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | [1-(4-nitro-phenyl)-piperidin-4-yl]-methanol | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)CO | C12H16N2O3
